US07244736B2
2-pyrazin-2-yl-5-(2,4,6-trifluoro-phenyl)-pyrimidine-4,6-diol
1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 14.4 g, 0.0944 mol) is added to a mixture of 2-(2,4,6-triflorophenyl)malonic acid diethyl ester (14.3 g, 0.0472 mol) and pyrazine-2-carboxamidine hydrochloride (9.00 g, 0.0566 mol) in 1-methyl-2-pyrrolidinone (NMP; 50 mL) solvent. The resulting mixture is heated to 95° C. while stirring for 7 hours. The mixture is cooled to about 50° C. and then HCl solution (37%, 5.6 mL) is added dropwise, keeping the temperature below 50° C. The mixture is then allowed to cool to about 20° C. Water (50 mL) is added dropwise over 20 minutes, causing the product to precipitate as a solid from the mixture (20–25° C.). The solid is collected by filtration, and the product cake is washed with water (300 mL). The solid is allowed to dry at 23° C. under atmospheric pressure for 24 hours, giving a yellow solid (11.5 g, 97% HPLC area, 76% yield. 1H NMR (DMSO-d6): d 12.45 (bs, 2H), 9.41 (s,1H), 8.91(s,1H), 8.46(m, 1H), 7.23(m, 2H).

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.0944 mol, 14.4 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-(2,4,6-triflorophenyl)malonic acid diethyl ester | 0.0472 mol, 14.3 g | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1F)F)F)=O | C13H13F3O4
reactant | pyrazine-2-carboxamidine hydrochloride | 0.0566 mol, 9.00 g | Cl.N1=C(C=NC=C1)C(=N)N
reactant | HCl | 5.6 mL | Cl | ClH
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | Water | 50 mL | O | H2O
product | 2-pyrazin-2-yl-5-(2,4,6-trifluoro-phenyl)-pyrimidine-4,6-diol | 76% yield | N1=C(C=NC=C1)C1=NC(=C(C(=N1)O)C1=C(C=C(C=C1F)F)F)O | C14H7F3N4O2
